US05994356
(14) 1-(4-Carboxymethyloxyphenyl)-4-[(piperidin-4-yl)oxycarbonyl]piperazine hydrochloride
Prepared from 1-(4-tert-butyloxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)oxycarbonyl]piperazine hydrochloride and trifluoroacetic acid.

reactant | 1-(4-tert-butyloxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)oxycarbonyl]piperazine hydrochloride | Cl.C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC1CCNCC1
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-Carboxymethyloxyphenyl)-4-[(piperidin-4-yl)oxycarbonyl]piperazine hydrochloride | Cl.C(=O)(O)COC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC1CCNCC1 | InChI=1S/C18H25N3O5.ClH/c22-17(23)13-25-15-3-1-14(2-4-15)20-9-11-21(12-10-20)18(24)26-16-5-7-19-8-6-16;/h1-4,16,19H,5-13H2,(H,22,23);1H
